US07858784B2
2-iodo-2′,4′,6′-triisopropyl-3,5-dimethoxybiphenyl.
An oven-dried three-neck 500 mL round bottom flask, which was equipped with a magnetic stir bar and charged with magnesium shavings (2.8 g, 116 mmol), was fitted with a reflux condenser, glass stopper, and rubber septum. The flask was purged with argon and then THF (45 mL) and 2,4,6-triisopropylbromobenzene (11.4 mL, 45 mmol) were added via syringe. The reaction mixture was heated to reflux and 1,2-dibromethane (40 uL) was added via syringe. The reaction was allowed to stir at reflux for 1.5 h and was then cooled to room temperature. A separate oven-dried 2 L round bottom flask, which was equipped with a magnetic stir bar and fitted with a septum, was purged with argon and then THF (200 mL) and 3,5-dimethoxyfluorobenzene (3 mL, 22.5 mmol) were added to the flask via syringe. The reaction mixture was cooled to −78° C. and n-BuLi (2.5 M in Hexane, 9.2 mL, 23 mmol) was added in a dropwise fashion over a 40 min period. The solution was stirred for 1 h and the Grignard reagent, which was prepared in the first reaction vessel, was added via cannula over a 30 min period and allowed to stir at −78° C. for 1 h. The reaction mixture was warmed to room temperature slowly where it was stirred for an additional 12 h. The mixture was then cooled to 0° C. and a solution of Iodine in THF (1 M, 50 mL, 50 mmol) was added via syringe over a 15 min period and then the dark red solution was warmed to room temperature and stirred for 1 h. The solvent was removed via a rotary evaporator, and the remaining dark brown oil was taken up in Et2O, washed with a saturated solution of sodium sulfite, and washed with brine. The organic layer was then dried over MgSO4, filtered, and the solvent was removed via rotary evaporator to give a yellow solid. The crude material was triturated with hexanes and filtered to give the desired product as an off-white solid (5.059 g, 48%).

reactant | magnesium | 116 mmol, 2.8 g | [Mg] | Mg
reactant | 2,4,6-triisopropylbromobenzene | 45 mmol, 11.4 mL | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)Br | C15H23Br
reactant | 1,2-dibromethane | 40 uL | BrCCBr | C2H4Br2
reactant | 3,5-dimethoxyfluorobenzene | 22.5 mmol, 3 mL | COC=1C=C(C=C(C1)OC)F | C8H9FO2
reactant | n-BuLi | 23 mmol, 2.5 M, 9.2 mL | [Li]CCCC
reactant | Iodine | II | I2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 45 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mmol, 1 M, 50 mL | C1CCOC1 | C4H8O
product | 2-iodo-2′,4′,6′-triisopropyl-3,5-dimethoxybiphenyl | 5.059 g, 48% | IC1=C(C=C(C=C1OC)OC)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C | C23H31IO2
